US06699861B1
tert-Butyl 4-[N-[7-Chloro-2-methanesulphonyloxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate
To a stirred under argon solution of tert-butyl 4-[N-[7-chloro-2-hydroxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate (0.200 g, 0.43 mmol) in anhydrous dichloromethane (5 ml) cooled in an ice-bath was added triethylamine (0.152 g, 1.5 mmol) followed by methanesulphonic anhydride (0.120 g, 0.69 mmol) (added in one portion). After 10 min the ice-bath was removed and stirring was continued for 45 min-TLC (40% ethyl acetate in dichloromethane) indicated a complete reaction. The reaction mixture was then diluted with ethyl acetate (200 ml) and the solution was washed with saturated aqueous sodium bicarbonate (2×50 ml), and brine (50 ml), dried (Na2SO4) and concentrated in vacuo. Purification by column chromatography, on elution with 40% ethyl acetate in dichloromethane afforded a white solid which dried in vacuo over P2O5 (0.221 g, 94%), mp 204-205° C. 1H-NMR (DMSO-d6): 1.50 (s, 9H, CO2But), 3.17 (s (poorly resolved triplet), 1H, C≡CH), 3.20 (s, 3H, SO2Me), 3.49 (s, 3H, N3-Me), 4.39 (d, J=2.2 Hz, 2H, CH2C≡C), 4.82 (s, 2H, 6-CH2), 5.41 (s, 2H, 2-CH2), 6.79 (d, J=8.9 Hz, 2H, 3′,5′-ArH), 7.73 (d, J=8.9 Hz, 2H, 2′,6′-ArH), 7.88, 7.94 (2×s, 2H, 5-H, 8-H); MS (FAB, m/z) 546, 548 [(M+H)+, 95%, 44% respectively; Cl isotopic pattern].

reactant | tert-butyl 4-[N-[7-chloro-2-hydroxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.43 mmol, 0.200 g | ClC1=C(C=C2C(N(C(=NC2=C1)CO)C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C25H26ClN3O4
reactant | triethylamine | 1.5 mmol, 0.152 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic anhydride | 0.69 mmol, 0.120 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-[N-[7-Chloro-2-methanesulphonyloxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | ClC1=C(C=C2C(N(C(=NC2=C1)COS(=O)(=O)C)C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C26H28ClN3O6S
